US20010027196A1
2-Amino-4-ethoxy-6-(3,4,5-trimethoxy-phenyl)-pyrimidine-5-carbonitrile
From 2-amino-4-methanesulfonyl-6-(3,4,5-trimethoxy-phenyl)-pyrimidine-5-carbonitrile, ethanol and DBU in DME. ES-MS m/e (%): 331 (M+H+, 100).

reactant | 2-amino-4-methanesulfonyl-6-(3,4,5-trimethoxy-phenyl)-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)S(=O)(=O)C)C#N)C1=CC(=C(C(=C1)OC)OC)OC | C15H16N4O5S
reactant | ethanol | C(C)O | C2H6O
reactant | DBU | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | DME | COCCOC | C4H10O2
product | 2-Amino-4-ethoxy-6-(3,4,5-trimethoxy-phenyl)-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)OCC)C#N)C1=CC(=C(C(=C1)OC)OC)OC | C16H18N4O4
